US07465811B2
3-(4-Cyanophenoxy)-2,2-dimethylpropanoic acid methyl ester
A mixture of 2.65 g (10.1 mmol) of triphenylphosphine and 20 ml of toluene is prepared and 2 ml (10.2 mmol) of DIAD (diisopropyl azodicarboxylate) are added at 0° C. The solution obtained is added to a solution of 1 g (8.4 mmol) of 4-hydroxybenzonitrile and 1.30 ml (10.2 mmol) of methyl 2,2-dimethyl-3--hydroxy-propanoate in 10 ml of toluene at 0° C. The reaction mixture is subsequently stirred for 30 min at 80° C. and then concentrated under reduced pressure. The crude product is purified by chromatography on silica gel using toluene as the eluent to give the expected compound in the form of a colorless oil (yield=89%).

reactant | triphenylphosphine | 10.1 mmol, 2.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 10.2 mmol, 2 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 4-hydroxybenzonitrile | 8.4 mmol, 1 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | methyl 2,2-dimethyl-3--hydroxy-propanoate | 10.2 mmol, 1.30 ml | CC(C(=O)OC)(CO)C | C6H12O3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Cyanophenoxy)-2,2-dimethylpropanoic acid methyl ester | COC(C(COC1=CC=C(C=C1)C#N)(C)C)=O | C13H15NO3
